US08497269B2
Step 3: N-(4-Fluorophenyl)-1-(2-methyl-4-(methylsulfonyl)phenyl)phthalazin-6-amine
A mixture of 1-chloro-N-(4-fluorophenyl)phthalazin-6-amine (200 mg, 0.73 mmol), 4,4,5,5-tetramethyl-2-(2-methyl-4-(methylsulfonyl)phenyl)-1,3,2-dioxaborolane (260 mg, 0.88 mmol), trans-dichlorobis(triphenylphosphine)palladium (II) (26 mg, 0.037 mmol), and sodium carbonate (232 mg, 2.19 mmol) in a 7:2:3 mixture of DME, EtOH and water (3 mL) was heated at 140° C. for 10 min in the Emrys Optimizer® microwave. After cooling to RT, the mixture was diluted with saturated aqueous solution of NaHCO3 and extracted with CH2Cl2 (3×). The combined organics were dried over Na2SO4, filtered and concentrated. The residue was purified using column chromatography (0-75% acetone in hexanes) to yield the title compound as a tan crystalline solid. MS (ESI, pos. ion) m/z: 408.1 (M+1).

reactant | 1-chloro-N-(4-fluorophenyl)phthalazin-6-amine | 0.73 mmol, 200 mg | ClC1=NN=CC2=CC(=CC=C12)NC1=CC=C(C=C1)F | C14H9ClFN3
reactant | 4,4,5,5-tetramethyl-2-(2-methyl-4-(methylsulfonyl)phenyl)-1,3,2-dioxaborolane | 0.88 mmol, 260 mg | CC1(OB(OC1(C)C)C1=C(C=C(C=C1)S(=O)(=O)C)C)C | C14H21BO4S
reactant | sodium carbonate | 2.19 mmol, 232 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | DME | COCCOC | C4H10O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.037 mmol, 26 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 3 mL | O | H2O
solvent | EtOH | CCO | C2H6O
product | N-(4-Fluorophenyl)-1-(2-methyl-4-(methylsulfonyl)phenyl)phthalazin-6-amine | FC1=CC=C(C=C1)NC=1C=C2C=NN=C(C2=CC1)C1=C(C=C(C=C1)S(=O)(=O)C)C | C22H18FN3O2S
